US04410539
A mixture of 5-[2-(1-imidazolyl)ethoxy]benzo[b]thiophene-2-carboxylic acid methyl ester (0.35 g.) and concentrated hydrochloric acid (5 ml.) was heated on a steam bath for 5 hours and then evaporated. The residue was crystallized twice from ethanol/ether to give 5-[2-(1-imidazolyl)ethoxy]benzo[b]-thiophene-2-carboxylic acid hydrochloride hemihydrate (0.23 g.), m.p. 255°-258° C.

reactant | 5-[2-(1-imidazolyl)ethoxy]benzo[b]thiophene-2-carboxylic acid methyl ester | 0.35 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OCCN2C=NC=C2 | C15H14N2O3S
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 5-[2-(1-imidazolyl)ethoxy]benzo[b]-thiophene-2-carboxylic acid hydrochloride hemihydrate | 0.23 g | O.Cl.N1(C=NC=C1)CCOC1=CC2=C(SC(=C2)C(=O)O)C=C1.N1(C=NC=C1)CCOC1=CC2=C(SC(=C2)C(=O)O)C=C1.Cl | InChI=1S/2C14H12N2O3S.2ClH.H2O/c2*17-14(18)13-8-10-7-11(1-2-12(10)20-13)19-6-5-16-4-3-15-9-16;;;/h2*1-4,7-9H,5-6H2,(H,17,18);2*1H;1H2
